US08536197B2
(147a) tert-Butyl 3-acetoxy-4,4-dimethoxypiperidine-1-carboxylate
A mixture of tert-butyl 3-hydroxy-4,4-dimethoxypiperidine-1-carboxylate [synthesized by the method described in Tetrahedron Lett., 46(3), 447-450 (2005)] (10 g, 38.3 mmol), pyridine (100 mL) and acetic anhydride (18.1 mL, 192 mmol) was stirred at 70° C. overnight. The reaction solution was cooled to room temperature, diluted with ethyl acetate, washed with 1 N hydrochloric acid and brine, and dried over magnesium sulfate. Thereafter, the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (Elution solvent: hexane/ethyl acetate=4/1) to obtain 9.65 g of the title compound as a colorless oil (83%).

reactant | tert-butyl 3-hydroxy-4,4-dimethoxypiperidine-1-carboxylate | OC1CN(CCC1(OC)OC)C(=O)OC(C)(C)C | C12H23NO5
reactant | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 192 mmol, 18.1 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 3-acetoxy-4,4-dimethoxypiperidine-1-carboxylate | 9.65 g, 83% | C(C)(=O)OC1CN(CCC1(OC)OC)C(=O)OC(C)(C)C | C14H25NO6
